US05773449
7-Carboxy-4-chloroquinoline (5 g, 24.0 mmol) was dissolved in a mixed solution of potassium hydroxide (1.49 g, 26.6 mmol) with methanol (150 ml) and stirred at room temperature overnight. The reactant was evaporated to dryness under reduced pressure. The residue was added with dimethylformamide (DMF; 60 ml) and methyl iodide (3.5 g, 24.6 mmol) in the order named and stirred at 80° C. for an hour. The reaction mixture was poured into ice water. The resulting precipitates were collected by filtration, dried over phosphorus pentoxide and recrystallized from ethanol (20 ml) to obtain 3.6 g (61%) of 7-methoxycarbonyl-4-chloroquinoline.

reactant | 7-Carboxy-4-chloroquinoline | 24.0 mmol, 5 g | C(=O)(O)C1=CC=C2C(=CC=NC2=C1)Cl | C10H6ClNO2
reactant | potassium hydroxide | 26.6 mmol, 1.49 g | [OH-].[K+]
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | methyl iodide | 24.6 mmol, 3.5 g | CI | CH3I
solvent | methanol | 150 ml | CO | CH4O
product | 7-methoxycarbonyl-4-chloroquinoline | 3.6 g, 61% | COC(=O)C1=CC=C2C(=CC=NC2=C1)Cl | C11H8ClNO2
